US08383093B1
Rotigotine HCl (1.2 g, 3.41 mmol) and Boc-Glycine-OH (1.195 g, 6.82 mmol) were dissolved in dichloromethane (150 ml) to give a suspension. After addition of DMAP (0.625 g, 5.11 mmol) and DCC (1.407 g, 6.82 mmol), the mixture was stirred for 16 hours at room temperature. The mixture was filtered using filter paper and the filtrate was quenched with 51 mL of 0.1 N HCl (5.11 mmol). The layers were separated and the aqueous phase was extracted with 7 mL of dichloromethane. The combined organic phases were washed with water and then with brine, dried over Na2SO4, filtered, concentrated using a rotary evaporator, and dried in vacuo to give a crude pale yellow solid. The crude material was stirred with diethyl ether (50 mL) for 30 minutes, filtered on a glass frit, washed with diethyl ether, and dried in vacuo to give a pale yellow powder Boc-Gly-Rotigotine.HCl (1.258 g, 75% yield).

reactant | Rotigotine HCl | 3.41 mmol, 1.2 g | CCCN(CCC1=CC=CS1)[C@H]2CCC3=C(C2)C=CC=C3O.Cl
reactant | Boc-Glycine-OH | 6.82 mmol, 1.195 g | CC(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | DCC | 6.82 mmol, 1.407 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HCl | 5.11 mmol, 0.1 N, 51 mL | Cl | ClH
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
catalyst | DMAP | 5.11 mmol, 0.625 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | Boc-Gly Rotigotine | N(CC(=O)O)C(=O)OC(C)(C)C.CCCN(CCC1=CC=CS1)[C@H]2CCC3=C(C=CC=C3O)C2 | InChI=1S/C19H25NOS.C7H13NO4/c1-2-11-20(12-10-17-6-4-13-22-17)16-8-9-18-15(14-16)5-3-7-19(18)21;1-7(2,3)12-6(11)8-4-5(9)10/h3-7,13,16,21H,2,8-12,14H2,1H3;4H2,1-3H3,(H,8,11)(H,9,10)/t16-;/m0./s1
